US04276294
The mixture of 6.0 g of 1-(4-methoxy-7 -chloro-2-phenyl-3-benzofuryl)-4-methylpiperazine hydrochloride, 45 ml of hydrazine hydrate, 250 ml of ethanol and 1.5 g of 10% palladium on charcoal is stirred at reflux for 2 hours. It is filtered, the filtrate evaporated, the residue taken up in methylene chloride and successively washed with 2 N aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated. The residue is taken up in isopropanol, the solution acidified with ethereal hydrogen chloride and the precipitate collected to yield the 1-(4-methoxy-2-phenyl-3-benzofuryl)-4-methylpiperazine hydrochloride melting at 279°-282° with decomposition. This elimination of chlorine from said 7-position ensures that the process according to Example 1 provided said 4-methoxy-starting material (identified in Example 9, No. 33) unambiguously.

reactant | 1-(4-methoxy-7 -chloro-2-phenyl-3-benzofuryl)-4-methylpiperazine hydrochloride | 6.0 g | Cl.COC1=CC=C(C2=C1C(=C(O2)C2=CC=CC=C2)N2CCN(CC2)C)Cl
reactant | hydrazine hydrate | 45 ml | O.NN
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(4-methoxy-2-phenyl-3-benzofuryl)-4-methylpiperazine hydrochloride | Cl.COC1=CC=CC2=C1C(=C(O2)C2=CC=CC=C2)N2CCN(CC2)C | InChI=1S/C20H22N2O2.ClH/c1-21-11-13-22(14-12-21)19-18-16(23-2)9-6-10-17(18)24-20(19)15-7-4-3-5-8-15;/h3-10H,11-14H2,1-2H3;1H
